US08541407B2
To a solution of methyl 4-(1-((tert-butoxycarbonyl)amino)cyclobutyl)benzoate (14.8 g, 48 mmol) in ethanol (100 mL) was added hydrazine (12 mL). The reaction mixture was stirred at reflux for 48 hours. The mixture was concentrated in vacuo and the residue was suspended ether (100 mL) and hexanes (50 mL). The suspension was stirred at room temperature for 2 hours and the solid was filtered off and dried under vacuum. The tert-butyl (1-(4-(hydrazinecarbonyl)phenyl)cyclobutyl)carbamate was obtained as a white solid (13.2 g, 89%). M.p.=146-147° C.; 400 MHz 1H NMR (DMSO-d6) δ: 9.70 (s, 1H), 7.75 (d, J=7.6 Hz, 2H), 7.67 (br.s, 1H), 7.42 (d, J=8.4 Hz, 2H), 4.51 (br.s, 2H), 2.37 (br.s, 4H), 2.1-1.9 (m, 1H), 1.85-1.7 (m, 1H), 1.33 (br.s, 9H); LCMS [M+H]: 306.

reactant | methyl 4-(1-((tert-butoxycarbonyl)amino)cyclobutyl)benzoate | 48 mmol, 14.8 g | C(C)(C)(C)OC(=O)NC1(CCC1)C1=CC=C(C(=O)OC)C=C1 | C17H23NO4
reactant | hydrazine | 12 mL | NN | H4N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | tert-butyl (1-(4-(hydrazinecarbonyl)phenyl)cyclobutyl)carbamate | N(N)C(=O)C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C16H23N3O3
